US08754079B2
XXIV.1 trans-4-(3-nitro-pyridin-2-yloxy)-cyclohexanol
Prepared analogously to III.1 from 4.054 g 2-fluoro-3-nitropyridine and 2.26 g trans-1,4-cyclohexanediol.

reactant | 2-fluoro-3-nitropyridine | 4.054 g | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | trans-1,4-cyclohexanediol | 2.26 g | [C@H]1(CC[C@H](CC1)O)O | C6H12O2
product | trans-4-(3-nitro-pyridin-2-yloxy)-cyclohexanol | [N+](=O)([O-])C=1C(=NC=CC1)O[C@@H]1CC[C@H](CC1)O | C11H14N2O4
